* source VERSION 2
.EXTERNAL OUTPUT Vreg
.EXTERNAL OUTPUT Vo
.EXTERNAL OUTPUT Vref
R_RL         0 VO  {RVAL} TC=0,0 
Q_Q4         N03486 N03562 N03480 BC557C 
R_RE2         N03480 VREG  47 TC=0,0 
V_Vref         VREF 0 2.5
Q_Q1         N03562 VREF N03700 BC547C 
Q_Q8         N03338 N03434 VREG TIP42C
Q_Q5         N03700 N03780 0 BC547C 
Q_Q2         N03486 N03574 N03700 BC547C 
V_Vreg         VREG 0 9.5
R_RF1         N03574 VO  22k TC=0,0 
R_Rfes         VREF N03780  1.8k TC=0,0 
R_RE1         N03474 VREG  47 TC=0,0 
Q_Q7         N03434 N03486 N03338 BC547C 
Q_Q6         N03780 N03780 0 BC547C 
R_RF2         0 N03574  22k TC=0,0 
Q_Q3         N03562 N03562 N03474 BC557C 
Q_Q9         N03486 N04427 VO BC547C 
R_RS         N03338 VO  2.23 TC=0,0 
R_R1         N04427 N03338  4925 TC=0,0 
R_R2         0 N04427  10k TC=0,0 
.PARAM  rval=1k
