* C:\Users\dbata\OneDrive\Escritorio\Checkpoint 1\Version 2 - Limitador de corriente\Version 2.asc
Q3 N006 N006 N003 0 BC557C
Q4 N007 N006 N004 0 BC557C
Q1 N006 Vref N008 0 BC547C
Q2 N007 Vf N008 0 BC547C
Q5 N001 N005 Vreg 0 D45H11
Q6 N005 N007 N001 0 2N3019
R5 Vo Vf 22k
R6 Vf 0 22k
RL Vo 0 {RL}
V1 Vref 0 {VREFDC} AC {VREFAC}
R8 Vreg N003 {RE}
R9 Vreg N004 {RE}
C3 Vo 0 1µ
VIN Vreg 0 {VINDC} AC {VINAC}
Q7 N008 N009 0 0 BC547C
Q8 N009 N009 0 0 BC547C
Rpol Vref N009 1.8k
Q9 N007 N002 Vo 0 BC547C
R1 Vo N001 70
R2 N002 0 2k
R3 N001 N002 2k
.model NPN NPN
.model PNP PNP
.lib C:\Users\dbata\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.op
.param VINDC 20
.param VINAC 1
.param VREFDC 2.5
.param VREFAC 0
;param RL 1k
;dc VIN 2 24
;step param RE 1 1k 100
.param RE 47
.step dec param RL 100k 1 60
* Mido regulacion de linea
.meas DC Vo1rl FIND V(Vo) AT=12
.meas DC Vo2rl FIND V(Vo) AT=24
.meas DC RegLin PARAM ((Vo2rl-Vo1rl)/12)
* Mido regulacion de carga
.meas OP Vo1rc FIND V(Vo) AT 100
.meas OP Vo2rc FIND V(Vo) AT 5
.meas OP Io1rc FIND I(RL) AT 100
.meas OP Io2rc FIND I(RL) AT 5
* Mido eficiencia
* -100*((V(vo)*I(RL))/(V(VIN)*I(VIN)))
.meas OP RegCar PARAM (-(Vo2rc-Vo1rc)/(Io2rc-Io1rc))
* Rpol Valores tipicos 1800
.backanno
.end
