* source VERSION 1
.EXTERNAL OUTPUT Vreg
.EXTERNAL OUTPUT Vref
.EXTERNAL OUTPUT Vo
R_RL         0 VO  1k TC=0,0 
R_Rfes         VREF N03780  1.8k TC=0,0 
R_RE1         N03474 VREG  47 TC=0,0 
R_RF2         0 N03574  22k TC=0,0 
V_Vref         VREF 0 2.5
Q_Q7         N03434 N03486 VO BC547C 
V_Vreg         VREG 0 9.5
Q_Q8         VO N03434 VREG TIP42C
Q_Q6         N03780 N03780 0 BC547C 
Q_Q4         N03486 N03562 N03480 BC557C 
Q_Q2         N03486 N03574 N03700 BC547C 
Q_Q1         N03562 VREF N03700 BC547C 
R_RF1         N03574 VO  22k TC=0,0 
Q_Q5         N03700 N03780 0 BC547C 
Q_Q3         N03562 N03562 N03474 BC557C 
R_RE2         N03480 VREG  47 TC=0,0 
R_R1         0 VREF  11k TC=0,0 
