* source VERSION 2-5
.EXTERNAL OUTPUT Vref
.EXTERNAL OUTPUT Vreg
.EXTERNAL OUTPUT Vo
.EXTERNAL OUTPUT Vf
V_Vreg         VREG 0 9.5
Q_Q5         N06566 N06646 0 BC547C 
Q_Q4         N06406 N06376 N06222 BC557C 
Q_Q6         N06646 N06646 0 BC547C 
Q_Q2         N06406 VREF N06566 BC547C 
R_RF1         VF VO  22k TC=0,0 
R_RE2         N06222 VREG  47 TC=0,0 
Q_Q3         N06376 N06376 N06216 BC557C 
R_Rfes         VREF N06646  1.8k TC=0,0 
R_R2         0 N06212  10k TC=0,0 
R_R1         N06212 N06074  4925 TC=0,0 
V_Vref         VREF 0 2.5
Q_Q7         N06228 N06388 N06074 BC547C 
Q_Q8         N06074 N06228 VREG TIP42C
R_RS         N06074 VO  2.23 TC=0,0 
R_RE1         N06216 VREG  47 TC=0,0 
Q_Q1         N06376 VF N06566 BC547C 
Q_Q9         N06388 N06212 VO BC547C 
R_RF2         0 VF  22k TC=0,0 
R_RL         0 VO  {RVAL} TC=0,0 
C_C1         N06406 N06388  2n  TC=0,0 
Q_Q10         N06388 N06406 N09481 BC557C 
Q_Q11         N06388 VREF N07747 BC547C 
R_R3         0 N07747  1.8k TC=0,0 
R_R5         N09481 VREG  100 TC=0,0 
.PARAM  rval=1k
