* source VERSION 1-5
.EXTERNAL OUTPUT Vreg
.EXTERNAL OUTPUT Vf
.EXTERNAL OUTPUT Vref
.EXTERNAL OUTPUT Vo
R_R1         0 N05867  1.8k TC=0,0 
Q_Q3         N05547 N05547 N05455 BC557C 
Q_Q5         N05725 N05845 0 BC547C 
R_RL         0 VO  1k TC=0,0 
Q_Q4         N05567 N05547 N05461 BC557C 
V_Vreg         VREG 0 9.5
Q_Q10         N05471 N05567 N06435 BC557C 
R_RE3         N06435 VREG  47 TC=0,0 
Q_Q8         VO N05415 VREG TIP42C
R_Rfes         VREF N05845  1.8k TC=0,0 
V_Vref         VREF 0 2.5
Q_Q6         N05845 N05845 0 BC547C 
R_RF1         VF VO  22k TC=0,0 
R_RE2         N05461 VREG  47 TC=0,0 
Q_Q9         N05471 VREF N05867 BC547C 
R_RE1         N05455 VREG  47 TC=0,0 
Q_Q7         N05415 N05471 VO BC547C 
Q_Q2         N05567 VREF N05725 BC547C 
R_RF2         0 VF  22k TC=0,0 
Q_Q1         N05547 VF N05725 BC547C 
C_C1         N05567 N05471  2n  TC=0,0 
